US08071602B2
Step 3: 1-(3,4-Dimethoxyphenethyl)-4-(2-phenoxyethyl)piperazine dihydrochloride
The reaction mixture of bis-(2-chloroethyl)-(2-phenoxyethyl)amine (0.895 g, 3 mmol), 2-(3,4-dimethoxyphenyl)ethylamine (0.548 g, 3 mmol), potassium carbonate (K2CO3; 1.277 g, 9 mmol), and sodium iodide (NaI; 0.899 g, 6 mmol) in DMF (6 mL) was stirred at 70-80° C. for 5 h, quenched with water, and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was suspended in 6 N HClaq (pH=3-4) and filtered. The filter cake was then washed with ethyl acetate and ethanol and dried to afford the title compound as a pale white solid (330 mg, 23%).

reactant | bis-(2-chloroethyl)-(2-phenoxyethyl)amine | 3 mmol, 0.895 g | ClCCN(CCOC1=CC=CC=C1)CCCl | C12H17Cl2NO
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 3 mmol, 0.548 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | potassium carbonate | 9 mmol, 1.277 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6 mmol, 0.899 g | [I-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 1-(3,4-Dimethoxyphenethyl)-4-(2-phenoxyethyl)piperazine dihydrochloride | 330 mg, 23% | Cl.Cl.COC=1C=C(CCN2CCN(CC2)CCOC2=CC=CC=C2)C=CC1OC | InChI=1S/C22H30N2O3.2ClH/c1-25-21-9-8-19(18-22(21)26-2)10-11-23-12-14-24(15-13-23)16-17-27-20-6-4-3-5-7-20;;/h3-9,18H,10-17H2,1-2H3;2*1H
